US08669271B2
(S)-4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from (S)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine by treatment with isopropyl chloroformate in the presence of triethylamine using dichloromethane as a solvent. LC (method 6): tR=0.96 min; Mass spectrum (ESI+): m/z=464 [M+H]+.

reactant | (S)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)O[C@@](C2)(C2CCNCC2)C | C19H27N3O3S
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)[C@@]1(CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1)C | C23H33N3O5S
